US07183445B2
To a solution of [4-(4-benzyloxy-phenyl)-1-methyl-cyclohex-3-enyl]-methanol (102 mg, 0.331 mmol) in DCM (5.0 mL) at −78° C. was added BCl3 (1.0 M in hexanes, 0.5 mL). The reaction mixture was then stirred at −78° C. for 3 h. The mixture was then quenched with aqueous saturated NaHCO3 (30 mL), extracted with ethyl acetate (60 mL), dried over MgSO4 and purified by SiO2 (50˜70% ethyl acetate/Hexanes) to yield 4-(4-hydroxymethyl-4-methyl-cyclohex-1-enyl)-phenol as a liquid.

reactant | [4-(4-benzyloxy-phenyl)-1-methyl-cyclohex-3-enyl]-methanol | 0.331 mmol, 102 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CCC(CC1)(C)CO | C21H24O2
reactant | BCl3 | 1.0 M, 0.5 mL | B(Cl)(Cl)Cl | BCl3
solvent | DCM | 5.0 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-hydroxymethyl-4-methyl-cyclohex-1-enyl)-phenol | OCC1(CC=C(CC1)C1=CC=C(C=C1)O)C | C14H18O2
